Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
shellfish derived / haldol / Zyprexa
 
Attending: ___.
 
Chief Complaint:
Intoxication, Auditory Hallucinations
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
 ___ with hx polysubstance abuse, HTN and schizophrenia who 
asked a bystander to call EMS for auditory hallucinations after 
using crack cocaine on night of admission- pt lives with mother 
but spends most of time on the streets - is unkept - reports now 
that auditory are improving now that he is sobering - is 
cooperative. Last crack use was at 10 am and reports significant 
etoh use (inconsistent hx of drinking either one to two times a 
week   
 +Headache, +priors, no trauma, no ivdu, neuro intact  
 no infectious symptoms but does have abdominal pain  
 +auditory hallucinations that he has whenever smokes crack, 
telling him to control himself  
 no HI or SI, no VH 

 
Past Medical History:
-Schizophrenia 
 
Social History:
___
Family History:
None
 
Physical Exam:
___ PHYSICAL EXAM
======================
 Vitals:  98.7 PO 144 / 74 102 20 95 RA 
 General: Alert, oriented x 2, no acute distress, smells of 
alcohol, very disheveled with dirty nails and malodorous 
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: tachycardic and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly. Midline 
infraumblical surgical scar
 Ext: Warm, well perfused, no cyanosis or edema  
 Skin: Without rashes or lesions  
 Neuro: Grossly intact. 

DISCHARGE PHYSICAL EXAM
=======================
98.2 PO 136 / 87 67 20 98 RA 
 General: Alert, oriented x 3, no acute distress
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly. Midline 
infraumblical surgical scar
 Ext: Warm, well perfused, no cyanosis or edema  
 Skin: Without rashes or lesions  
 Neuro: Grossly intact.  

 
Pertinent Results:
ADMISSION LABS
==============
___ 02:13AM BLOOD WBC-15.8* RBC-5.17 Hgb-14.4 Hct-45.4 
MCV-88 MCH-27.9 MCHC-31.7* RDW-13.0 RDWSD-41.9 Plt ___
___ 02:13AM BLOOD Neuts-78.0* Lymphs-16.2* Monos-4.8* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-12.32* AbsLymp-2.56 
AbsMono-0.76 AbsEos-0.02* AbsBaso-0.05
___ 02:13AM BLOOD Plt ___
___ 02:13AM BLOOD Glucose-192* UreaN-22* Creat-1.4* Na-138 
K-4.3 Cl-98 HCO3-19* AnGap-25*
___ 02:13AM BLOOD ALT-51* AST-72* CK(CPK)-2399* AlkPhos-74 
TotBili-0.6
___ 02:13AM BLOOD Lipase-20
___ 01:30PM BLOOD CK-MB-10 MB Indx-0.8 cTropnT-<0.01
___ 02:13AM BLOOD Calcium-9.5 Phos-4.6* Mg-2.5
___ 02:13AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

DISCHARGE LABS
==============
___ 07:06AM BLOOD WBC-7.2 RBC-4.58* Hgb-13.0* Hct-39.9* 
MCV-87 MCH-28.4 MCHC-32.6 RDW-13.1 RDWSD-41.6 Plt ___
___ 07:06AM BLOOD Plt ___

 
Brief Hospital Course:
Mr. ___ is a ___ y/o M with a history of schizophrenia with 
multiple psychiatric hospitalizations, anxiety, depression, 
hypertension, who presents with auditory hallucinations in the 
setting of crack cocaine use and found to have acute kidney 
injury, leukocytosis, and elevated CK.

#Polysubstance Abuse/Alcohol withdrawal: Patient has poor 
insight into his substance abuse with multiple ED visits for 
crack cocaine use with hallucinations. Patient unable to 
quantify how much alcohol he drinks but with hx of ED visits, 
very concerning for alcohol abuse. Was placed on diazepam for 
CIWA >10 but did not score. Hallucinations were resolving on day 
of admission and completely resolved on day of discharge, 
ultimately attributed to cocaine use.  

#RBBB: EKG showed likely rate-related conduction delay RBBB and 
T wave abnormalities on day of admission, which resolved with 
improvement in rate.  Initially concerning for possible coronary 
vasospasm in the setting of cocaine, however given nl cardiac 
enzymes and resolution with a normal rate, this was thought to 
be less likely. No complaints of any chest pain, dyspnea.

___: Likely pre-renal etiology from intoxication and possibly 
being down. Cr elevated to 1.4 from baseline 1. Improved with 
fluids, discharge Cr 0.9. 

#Leukocytosis - Resolved during the hospitalization without 
intervention, no infx sxs, likely stress response from crack 
cocaine/rhabdo. 

#Rhabdomyolysis: Resolved with IVF. Patient does not report 
being found down, although he is a very poor historian. Does not 
report chest pain, EKG, and tropsnot suggestive of ischemia.

#Schizophrenia: Patient has had multiple admissions for 
schizophrenia
His mental health provider is ___ at ___ in 
___, the number is ___. Fax ___. Attempted 
to call outpatient provider but no response as office is closed 
on weekend. Patient reports that he received his risperdone 
consta ___.  Per psych, his hallucinations are likely from 
crack cocaine and no need to give risperdone consta unless we 
obtain collateral from psych provider that he did not get his 
injection. Denied SI, HI during the hospitalization and at the 
time of discharge.

TRANSITIONAL ISSUE
==================
[] RBBB: EKG showed rate related RBBB. If persists or has in the 
future, may need echocardiogram to look for structural 
abnormalities.
[] Substance Abuse: Patient expressed desire to quit crack 
cocaine and alcohol. Please provide resource for him as social 
work was unable to see him on the weekend.
[]please ensure follow up with his psychiatrist

 # CODE STATUS: Presumed Full 
 # CONTACT: ___ (Mother; ___ speaking only) ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. RisperiDONE Long Acting Injection 12.5 mg IM EVERY 2 WEEKS 
(MO) 

 
Discharge Medications:
1.  RisperiDONE Long Acting Injection 12.5 mg IM EVERY 2 WEEKS 
(MO)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
HALLUCINATIONS FROM SUBSTANCE USE
ALCOHOL ABUSE
ACUTE KIDNEY INJURY 

SECONDARY DIAGNOSIS
===================
SCHIZOPHRENIA
SECONDARY DIAGNOSIS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

WHY DID YOU COME TO ___?
You came to ___ because you were hearing voices after you used 
crack cocaine. You were found to have a kidney injury, probably 
from not drinking enough fluids. We also did an EKG, which looks 
at the rhythm of your heart. It should some rhythm abnormalities 
that are likely from your crack cocaine use. The rhythm 
abnormalities have since improved.

WHAT HAPPENED AT ___?
We gave you fluids through your IV and your kidneys improved. 

WHAT SHOULD YOU DO WHEN YOU LEAVE?
You should follow up with your primary care doctor, ___. 
You should try to avoid using crack cocaine and drinking 
excessive amounts of alcohol to prevent hallucinations in the 
future. You should also see your psychiatrist so that you can be 
treated for your schizophrenia.

Your discharge medications and follow up appointments are 
detailed below.

We wish you the best!

Your ___ Care team
 
Followup Instructions:
___